US09399640B2
Step 4. 4-[2-(Aminomethyl)-4-phenoxy-1,3-benzoxazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
Trifluoroacetic acid (2.20 mL) was added dropwise to a solution of tert-butyl [(5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-4-phenoxy-1,3-benzoxazol-2-yl)methyl]carbamate (0.282 g, 0.440 mmol) in methylene chloride (2.20 mL) and the resultant reaction mixture was stirred at RT for 30 min. The reaction mixture was concentrated in vacuo to a residue that was dissolved in small amount of dichloromethane and added dropwise to a saturated solution of sodium bicarbonate at 0° C. The aqueous solution was extracted with dichloromethane to give the desired product (231 mg, 97%) which was used immediately without further purification. LCMS calculated for C29H25N4O5S (M+H)+: m/z=541.2. found: 541.1.

reactant | Trifluoroacetic acid | 2.20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl [(5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-4-phenoxy-1,3-benzoxazol-2-yl)methyl]carbamate | 0.440 mmol, 0.282 g | CN1C(C2=C(C(=C1)C=1C=CC3=C(N=C(O3)CNC(OC(C)(C)C)=O)C1OC1=CC=CC=C1)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C34H32N4O7S
solvent | methylene chloride | 2.20 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(Aminomethyl)-4-phenoxy-1,3-benzoxazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 231 mg, 97% | NCC=1OC2=C(N1)C(=C(C=C2)C=2C1=C(C(N(C2)C)=O)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)OC1=CC=CC=C1 | C29H24N4O5S
